datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:21]([C:20]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])[H:13])[H:12])([H:10])[H:11],34.1414
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19],-12.9704
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[H:6]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[H:6],6.19232
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25],39.3714
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([S:15][H:23])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:19])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[S:15][H:23])([H:16])([H:17])[H:18],77.9479
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[H:9][H:10]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:10])[H:4].[H:9],80.8767
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])([H:22])[H:23])([H:20])[H:21])[H:19])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]12[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])=[C:11]2[H:28])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14],70.406
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21][C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:21](=[C:20]([H:23])[H:24])[C:22]([H:25])([H:26])[H:27])[H:12])([H:10])[H:11],6.98728
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]=[S:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:13])([H:14])[H:15])=[S:12],28.0328
[C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6].[O:0]([H:1])[H:2]>>[H:1][C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6].[O:0][H:2],84.8097
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[H:13]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[O:4])[H:12])([H:5])([H:6])[H:7].[H:8][H:13],12.67752
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[O:12]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:12],24.618656
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([O:6][O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([O:6][O:7][H:8])[H:13])([H:11])[H:12])([H:9])[H:10],87.0272
[C:0]([N:1][H:5])([H:2])([H:3])[H:4].[O:6][H:7]>>[C:0](=[N:1][H:5])([H:3])[H:4].[H:2][O:6][H:7],-4.97896
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:18]([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[C:18]([H:19])([H:20])[H:21])([H:6])([H:7])[H:8],30.7106
[N:3][H:4].[O:0]=[N+:1][O-:2]>>[O:0]=[N+:1]([O-:2])[N:3][H:4],5.129584
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]#[C:7][H:8]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][C:6]#[C:7][H:8],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],45.6056
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:20])[H:21])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:11],79.5797
